US07915287B2
5-bromo-2-chloronicotinic acid (8.157 g, 34 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.94 g, 36 mmol) were dissolved in DCM (200 ml) and triethylamine (5.3 ml, 38 mmol) and aniline (3.5 ml, 38 mmol) were added. The reaction was stirred under nitrogen overnight at room temperature. More aniline (1.5 ml, 16 mmol) was added the next morning and stirring was continued. When LCMS analysis indicated the formation of the product, the reaction was quenched with water (150 ml). The layers were separated, and the aqueous phase was extracted with DCM. The organic extracts were washed with 1N HCl (2×50 ml), saturated sodium bicarbonate (50 ml), and brine (50 ml). They were then combined, dried over sodium sulfate, filtered, concentrated, and purified on a silica gel filter (˜3 inches, 50:1→30:1 DCM/MeOH). To afford the desired 5-bromo-2-chloro-N-phenylnicotinamide (2.85 g, 9.15 mmol, 26%). MS (ESI pos. ion) m/z: 311 (MH+, 79Br), 313 (MH+, 81Br). Calc'd exact mass for C12H8BrClN2O: 310 (79Br), 312 (81Br).

reactant | 5-bromo-2-chloronicotinic acid | 34 mmol, 8.157 g | BrC=1C=NC(=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 36 mmol, 6.94 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 38 mmol, 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | aniline | 38 mmol, 3.5 ml | NC1=CC=CC=C1 | C6H7N
reactant | aniline | 16 mmol, 1.5 ml | NC1=CC=CC=C1 | C6H7N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-chloro-N-phenylnicotinamide | 9.15 mmol, 2.85 g, 26% | BrC=1C=NC(=C(C(=O)NC2=CC=CC=C2)C1)Cl | C12H8BrClN2O
